US05631262
10(k) 2-(E-2-Carboxymethylethenyl)-3-[8-(4-methoxyphenyl)octyloxy]-6-[(3-amino)phenoxymethyl]pyridine t butylcarbamate
To a cooled (0° C.) solution of SOCl2 (0.51 mL, 7.0 mmol) in dry toluene (2 mL) under an argon atmosphere was added a solution of 2-(E-2-carboxymethylethenyl)-3-[8-(4-methoxyphenyl)octyloxy]-6-hydroxymethylpyridine (300 mg, 0.70 mmol) in toluene (5 mL). After 5 minutes the cooling bath was removed and the reaction was stirred for 2 hours at room temperature. The toluene and excess SOCl2 were evaporated. To this was added dry DMF (0.90 mL), 3-aminophenol t butylcarbamate (209 mg, 1.0 mmol), and anhydrous Cs2CO3 (1.63 g, 5.0 mmol). The reaction was heated at 90° C. under an atmosphere of argon for 2 hours. Upon cooling to room temperature the reaction was diluted with EtOAc and washed with H2O, 10% NaOH, H2O, and brine and dried (MgSO4). Purification by flash column chromatography (silica, EtOAc:hexane:CH2Cl2, 7:63:30) yielded a colorless oil: 1H NMR (250 MHz, CDCl3) δ 8.09 (d, J=15.7 Hz, 1H, olefin), 7.44 (d, J=8.6 Hz, 1H, aryl), 7.15 (m, 5H, aryl), 7.05 (d, J=15.7 Hz, 1H, olefin), 6.90 (m, 1H, aryl), 6.82 (d, J=8.6 Hz, 2H, aryl), 6.65 (m, 1H, aryl), 6.51 (s, 1H, NH), 5.12 (s, 2H, CH2 --O), 4.0 (t, J=6.5 Hz, 2H, O--CH2), 3.81 (s, 3H, methyl ester), 3.78 (s, 3H, OMe), 2.54 (t, J=7.6 Hz, 2H, benzylic), 1.88 (m, 2H, CH2), 1.51 (s, 9H, t butyl), 1.46 (m, 10H, aliphatic).

reactant | SOCl2 | 7.0 mmol, 0.51 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-(E-2-carboxymethylethenyl)-3-[8-(4-methoxyphenyl)octyloxy]-6-hydroxymethylpyridine | 0.70 mmol, 300 mg | C(=O)(O)C/C=C/C1=NC(=CC=C1OCCCCCCCCC1=CC=C(C=C1)OC)CO | C25H33NO5
reactant | 3-aminophenol t butylcarbamate | 1.0 mmol, 209 mg | C(C)(C)(C)NC(=O)OC1=CC(=CC=C1)N | C11H16N2O2
reactant | Cs2CO3 | 5.0 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 0.90 mL | CN(C)C=O | C3H7NO
product | 2-(E-2-Carboxymethylethenyl)-3-[8-(4-methoxyphenyl)octyloxy]-6-[(3-amino)phenoxymethyl]pyridine t butylcarbamate | C(C)(C)(C)NC(O)=O.C(=O)(O)C/C=C/C1=NC(=CC=C1OCCCCCCCCC1=CC=C(C=C1)OC)COC1=CC(=CC=C1)N | InChI=1S/C31H38N2O5.C5H11NO2/c1-36-27-18-15-24(16-19-27)10-6-4-2-3-5-7-21-37-30-20-17-26(33-29(30)13-9-14-31(34)35)23-38-28-12-8-11-25(32)22-28;1-5(2,3)6-4(7)8/h8-9,11-13,15-20,22H,2-7,10,14,21,23,32H2,1H3,(H,34,35);6H,1-3H3,(H,7,8)/b13-9+;
